US08217177B2
A 25 mL round bottom flask at rt was charged with (R)-3-fluoropyrrolidine hydrochloride (124 mg, 0.99 mmol). To this was added potassium carbonate (365 mg, 2.64 mmol), 3-(2-bromoethoxy)-8-chloro-1,5-naphthyridine (190 mg, 0.66 mmol), sodium iodide (149 mg, 0.99 mmol) and DMF (2 mL). Reaction mixture placed in oil bath preheated to 60° C. and allowed to stir for 16 hrs. Reaction mixture passed through celite cake, rinsed with 10% MeOH/DCM and filtrate concentrated to afford yellow oil. This was purified by ISCO silica gel chromatography (20-40% EtOAC/Hexanes) to afford (R)-8-chloro-3-(2-(3-fluoropyrrolidin-1-yl)ethoxy)-1,5-naphthyridine (105 mg, 54% yield). MS [M+H]=296.2. Calc'd for C14H15ClFN3O=295.7.

reactant | (R)-3-fluoropyrrolidine hydrochloride | 0.99 mmol, 124 mg | Cl.F[C@H]1CNCC1
reactant | potassium carbonate | 2.64 mmol, 365 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(2-bromoethoxy)-8-chloro-1,5-naphthyridine | 0.66 mmol, 190 mg | BrCCOC=1C=NC2=C(C=CN=C2C1)Cl | C10H8BrClN2O
reactant | sodium iodide | 0.99 mmol, 149 mg | [I-].[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (R)-8-chloro-3-(2-(3-fluoropyrrolidin-1-yl)ethoxy)-1,5-naphthyridine | 105 mg, 54% yield | ClC=1C=CN=C2C=C(C=NC12)OCCN1C[C@@H](CC1)F | C14H15ClFN3O
